US06251926B1
Diethyl azodicarboxylate (40% toluene solution, 142 g) was added dropwise to a solution of 4-methoxymethoxybenzylalcohol (50.0 g), N-hydroxyphthalimide (44.1 g) and triphenylphosphine (83.7 g) in tetrahydrofuran (900 ml) at room temperature and stirred for 1 hour. The reaction mixture was concentrated. In order to remove triphenylphosphine oxide, the residue was subjected to silica gel chromatography to obtain crystals from an ethyl acetate-hexane (1:5, v/v)-eluted fraction. The crystals were washed with ethyl acetate-hexane (1:5, v/v) and then dissolved in tetrahydrofuran (200 ml) and ethanol (50 ml). To this solution was added hydrazine monohydrate (33.7 ml) and heated under reflux for 3 hours. The reaction mixture was cooled to room temperature, an aqueous solution of potassium carbonate was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. Isopropyl ether was added to the residue and filtered to remove insolubles. The filtrate was concentrated to obtain 4-methoxymethoxybenzyloxyamine (28.9 g, yield 58%) as a colorless oil.

reactant | Diethyl azodicarboxylate | 142 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-methoxymethoxybenzylalcohol | 50.0 g | COCOC1=CC=C(CO)C=C1 | C9H12O3
reactant | N-hydroxyphthalimide | 44.1 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 83.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
product | 4-methoxymethoxybenzyloxyamine | 28.9 g, yield 58% | COCOC1=CC=C(CON)C=C1 | C9H13NO3
